US07223788B2
Ethyl 2′,4′-difluorobiphenyl-4-carboxylate
0.009 g of Pd(PPh3)4 was added to a solution of 0.091 g of ethyl 4-iodobenzoate in 0.96 ml of degassed toluene and stirred at room temperature for 10 minutes. Then a solution of 0.047 g of 2,4-difluorophenylboronic acid in 0.114 ml of ethanol and 0.201 ml of a 2N Na2CO3 solution was added to the reaction solution. The solution was heated at 100° C. overnight. The reaction mixture was then concentrated in vacuo, and water/ethyl acetate were added to the residue. The aqueous phase was extracted three times with ethyl acetate and dried over sodium sulfate, and the solvent was removed in vacuo and purified by preparative HPLC.

reactant | ethyl 4-iodobenzoate | 0.091 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | 2,4-difluorophenylboronic acid | 0.047 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 0.96 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.114 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 2′,4′-difluorobiphenyl-4-carboxylate | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=O)OCC | C15H12F2O2
